US07642264B2
2-(3′-Methanesulfonyl-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine (example E.3) (0.45 g, 1.0 mmol) and commercially available 3-methanesulfonyl-phenylboronic acid (0.22 g, 1.1 mmol) according to the general procedure VI. Obtained as a white solid (0.45 g, 86%). MS (ISP) 523.0 [(M+H)+]; mp 183.5° C.

reactant | 2-(3-bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | 1.0 mmol, 0.45 g | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H9BrF6N2
reactant | 3-methanesulfonyl-phenylboronic acid | 1.1 mmol, 0.22 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 2-(3′-Methanesulfonyl-biphenyl-3-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | CS(=O)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C25H16F6N2O2S
